US06723744B2
Step C: Preparation of 4,6-Dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester
To a solution of 4,6-dichloro-5-(3-isopropyl-4-methoxy-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester (46 mg, 0.11 mmol) in dry methylene chloride (1 mL) at room temperature was added boron tribromide (1M in methylene chloride, 0.22 mL, 0.22 mmol). After stirring at room temperature for 1.5 hours, the reaction was quenched with methanol (0.5 mL), stirred for 15 minutes, then diluted with water (10 mL), and stirred for another 15 minutes. The solution was extracted with methylene chloride (3 times 5 mL). The combined organic extracts were dried (Na2SO4), filtered, and concentrated. The residue was purified by preparative thin layer chromatography (3% methanol in methylene chloride) to afford the title compound (32 mg). 1H NMR (400 MHz, CDCl3) δ7.42 (s, 1H), 7.34 (s, 1H), 6.83 (d, 1H), 6.60 (d, 1H), 6.39-6.36 (dd, 1H), 4.05 (s, 3H), 3.92 (s, 3H), 3.19-3.12 (m, 1H), 1.21 (d, 6H). MS (APCI−) Calc: 407.1, Found: 406.2 (M−1).

reactant | 4,6-dichloro-5-(3-isopropyl-4-methoxy-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester | 0.11 mmol, 46 mg | COC(=O)C=1N(C2=CC(=C(C(=C2C1)Cl)OC1=CC(=C(C=C1)OC)C(C)C)Cl)C | C21H21Cl2NO4
reactant | boron tribromide | 0.22 mmol, 1M, 0.22 mL | B(Br)(Br)Br | BBr3
solvent | methylene chloride | 1 mL | C(Cl)Cl | CH2Cl2
product | 4,6-Dichloro-5-(4-hydroxy-3-isopropyl-phenoxy)-1-methyl-1H-indole-2-carboxylic acid methyl ester | 32 mg | COC(=O)C=1N(C2=CC(=C(C(=C2C1)Cl)OC1=CC(=C(C=C1)O)C(C)C)Cl)C | C20H19Cl2NO4
